US05075319
A mixture of 30 g 1,5-di(trifluoromethyl)-1,3,5-trioxopentane and 125 ml 28% aqueous ammonium hydroxide was heated in an autoclave at 130° C. for 5 hours. The reaction mixture was concentrated in vacuo, dissolved in 350 ml ethanol and treated with 11 ml 6N hydrochloric acid. The resulting mixture was concentrated in vacuo, 100 ml water added to the residue and filtered to give 8.0 g 2,6-di(trifluoromethyl)-4-hydroxypyridine, m.p. 123°-130° C.

reactant | 1,5-di(trifluoromethyl)-1,3,5-trioxopentane | 30 g | FC(C(CC(CC(=O)C(F)(F)F)=O)=O)(F)F | C7H4F6O3
reactant | ammonium hydroxide | 125 ml | [OH-].[NH4+]
product | 2,6-di(trifluoromethyl)-4-hydroxypyridine | 8.0 g | FC(C1=NC(=CC(=C1)O)C(F)(F)F)(F)F | C7H3F6NO
